US07897621B2
c) 5-Bromo-N-(1-hydroxymethyl-3-methyl-butyl)-6-(pyridin-2-ylmethoxy)-2-trifluoromethyl-nicotinamide
The title compound was synthesized in analogy to Example 1c, using 5-bromo-6-(pyridin-2-ylmethoxy)-2-trifluoromethyl-nicotinic acid and rac-leucinol as starting materials, MS (ISP) 476.1 (M+H)+.

reactant | 5-bromo-6-(pyridin-2-ylmethoxy)-2-trifluoromethyl-nicotinic acid | BrC=1C(=NC(=C(C(=O)O)C1)C(F)(F)F)OCC1=NC=CC=C1 | C13H8BrF3N2O3
reactant | rac-leucinol | N[C@@H](CC(C)C)CO | C6H15NO
product | 5-Bromo-N-(1-hydroxymethyl-3-methyl-butyl)-6-(pyridin-2-ylmethoxy)-2-trifluoromethyl-nicotinamide | BrC=1C(=NC(=C(C(=O)NC(CC(C)C)CO)C1)C(F)(F)F)OCC1=NC=CC=C1 | C19H21BrF3N3O3
